US07741341B2
7-Methyl-2-trichloromethyl-1H-benzoimidazole-5-carboxylic acid methyl ester 7-Methyl-2-trichloromethyl-1H-benzoimidazole-5-carboxylic acid methyl ester was prepared by a procedure according to example 5 (i) starting from 404.0 mg (2.20 mmol) 3,4-Diamino-5-methyl-benzoic acid methyl ester and 0.39 mL (3.08 mmol) 2,2,2-trichloro-acetimidic acid methyl ester.

reactant | 3,4-Diamino-5-methyl-benzoic acid methyl ester | 2.20 mmol, 404.0 mg | COC(C1=CC(=C(C(=C1)C)N)N)=O | C9H12N2O2
reactant | 2,2,2-trichloro-acetimidic acid methyl ester | 3.08 mmol, 0.39 mL | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
product | 7-Methyl-2-trichloromethyl-1H-benzoimidazole-5-carboxylic acid methyl ester 7-Methyl-2-trichloromethyl-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C(=C1)C.COC(=O)C1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C(=C1)C | 2C11H9Cl3N2O2
